US09193725B2
To a stirred solution of 2-(4-chloro-6-phenylpyrimidin-5-yl)ethanol (340 mg) in dry chloroform (10 mL), phosphorus oxy chloride (2 mL) was slowly added under nitrogen atmosphere at 0° C. The reaction mixture was stirred at room temperature for 2 hours and solvents were removed under reduced pressure. The resulting oil was diluted with dichloromethane (50 mL), washed with 10% NaHCO3 (10 mL) and brine (10 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated to gave crude 4-chloro-5-(2-chloroethyl)-6-phenylpyrimidine (150 mg) as viscous liquid, which was used as was. 1H NMR (DMSO-d6): δ 2.89-2.94 (t, 2H), 3.54-3.55 (t, 2H), 7.48-7.59 (m, 5H), 8.91 (s, 1H).

reactant | 2-(4-chloro-6-phenylpyrimidin-5-yl)ethanol | 340 mg | ClC1=NC=NC(=C1CCO)C1=CC=CC=C1 | C12H11ClN2O
reactant | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | phosphorus oxy chloride | 2 mL | O(Cl)Cl.[P]
product | 4-chloro-5-(2-chloroethyl)-6-phenylpyrimidine | 150 mg | ClC1=NC=NC(=C1CCCl)C1=CC=CC=C1 | C12H10Cl2N2
